US05521147
A stirred mixture of 24.3 grams (0.174 mole) of 3-bromopropanol, 20.6 grams (0.180 mole) of 3-fluorophenol, and 37.0 grams (0.270 mole) of potassium carbonate in 300 mL of acetone was heated at reflux for about 18 hours. The reaction mixture was then cooled and concentrated under reduced pressure to a residue, which was stirred with water and extracted with diethyl ether. The ether extract was washed with an aqueous 10% sodium hydroxide solution and then with water. The organic layer was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure, yielding 24.5 grams of 3-(3-fluorophenoxy)propanol. The NMR spectrum was consistent with the proposed structure.

reactant | 3-bromopropanol | 0.174 mole, 24.3 grams | BrCCCO | C3H7BrO
reactant | 3-fluorophenol | 0.180 mole, 20.6 grams | FC=1C=C(C=CC1)O | C6H5FO
reactant | potassium carbonate | 0.270 mole, 37.0 grams | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 300 mL | CC(=O)C | C3H6O
product | 3-(3-fluorophenoxy)propanol | 24.5 grams | FC=1C=C(OCCCO)C=CC1 | C9H11FO2
